US04177194
Methyl 3,7-Diazabicyclo[5,4,0]undec-5-ene (4 ml) is added to a solution of 2-methyl-5-nitro-2-pentene (25.0 g, 0.193 m) in methanol (200 ml). The resulting mixture is heated to 60° and methyl crotonate (30.85 g, 0.308 m) is added under nitrogen. The mixture is then stirred for 6 days at 60° after which it is cooled to room temperature and most of the methanol is removed in vacuo. The residue is treated with ether (500 ml) and washed with 2 N HCl (250 ml) and water (250 ml). The organic layer is dried (Na2SO4) and evaporated in vacuo to give 42.5 g of crude product. The crude product is purified by column chromatography on silica gel (500 g, ethyl acetate/hexane 2:98) to give methyl 3,7-dimethyl-4-nitro-6-octenoate (8.65 g, 42%).

reactant | Methyl 3,7-Diazabicyclo[5,4,0]undec-5-ene | 4 ml | CC12CNCC=CN2CCCC1 | C10H18N2
reactant | 2-methyl-5-nitro-2-pentene | 25.0 g | CC(C)=CCC[N+](=O)[O-] | C6H11NO2
reactant | methyl crotonate | 30.85 g | C(\C=C\C)(=O)OC | C5H8O2
solvent | methanol | 200 ml | CO | CH4O
product | methyl 3,7-dimethyl-4-nitro-6-octenoate | 8.65 g, 42% | CC(CC(=O)OC)C(CC=C(C)C)[N+](=O)[O-] | C11H19NO4
